### PR TITLE
[Merged by Bors] - feat: delete Nat.shiftr and Nat.shiftl

### PR DESCRIPTION
**Pull request by mhk119**
These already exists upstream (with minorly different but equal definitions) as `Nat.shiftRight` and `Nat.shiftLeft`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Size.lean [hunk 1]
```diff
@@ -35,26 +31,15 @@ theorem shiftl'_tt_eq_mul_pow (m) : ∀ n, shiftl' true m n + 1 = (m + 1) * 2 ^
 
 end
 
-theorem one_shiftl (n) : shiftl 1 n = 2 ^ n :=
-  (shiftl_eq_mul_pow _ _).trans (Nat.one_mul _)
-#align nat.one_shiftl Nat.one_shiftl
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Size.lean:40]: Where did this lemma go?

File: Mathlib/Data/Num/Lemmas.lean [hunk 2]
```diff
@@ -952,73 +952,68 @@ theorem lxor'_to_nat : ∀ m n, (lxor m n : ℕ) = Nat.lxor' m n := by
 #align num.lxor_to_nat Num.lxor'_to_nat
 
 @[simp, norm_cast]
-theorem shiftl_to_nat (m n) : (shiftl m n : ℕ) = Nat.shiftl m n := by
+theorem shiftl_to_nat (m n) : (shiftl m n : ℕ) = Nat.shiftLeft m n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Num/Lemmas.lean:955]: This should use `<<<` notation, right?

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 3]
```diff
@@ -186,41 +186,51 @@ def shiftl' (b : Bool) (m : ℕ) : ℕ → ℕ
...
+  | n + 1 => by
+    have : 2 * (m * 2^n) = 2^(n+1)*m := by
+      rw [Nat.mul_comm, Nat.mul_assoc, ← pow_succ]; simp
+    simp [shiftl', bit_val, shiftLeft_eq_shiftl'_false, this]
 
 @[simp]
-theorem shiftl_zero (m) : shiftl m 0 = m :=
-  rfl
-#align nat.shiftl_zero Nat.shiftl_zero
+lemma bit_0 (b : Bool) : Nat.bit b 0 = b.toNat := by
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:198]:
```suggestion
lemma bit_zero (b : Bool) : Nat.bit b 0 = b.toNat := by
```

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 4]
```diff
@@ -186,41 +186,51 @@ def shiftl' (b : Bool) (m : ℕ) : ℕ → ℕ
...
+  cases' b <;> simp
 
 @[simp]
-theorem shiftl_succ (m n) : shiftl m (n + 1) = bit0 (shiftl m n) :=
-  rfl
-#align nat.shiftl_succ Nat.shiftl_succ
+lemma bit_1 (b : Bool) : Nat.bit b 1 = 2 + b.toNat:= by
+  cases' b <;> simp
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:203]: It's not clear to me that this is a good simp lemma; any rate, it seems out of scope for the PR?

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 5]
```diff
@@ -186,41 +186,51 @@ def shiftl' (b : Bool) (m : ℕ) : ℕ → ℕ
...
+
+@[simp]
+lemma shiftLeft_eq' {m n : Nat} : shiftLeft m n = m <<< n := rfl
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:206]: Can you add a comment explaining why this name is primed?

Comment (mhk119) [reply Mathlib/Init/Data/Nat/Bitwise.lean:206]: Sure, it's because ```shiftLeft_eq``` is already a lemma in ```Std.Data.Nat.Lemmas``` and it's also ```simp```ed (I don't think it should be simped either).

File: Mathlib/Data/Num/Lemmas.lean (hunk 2 above)
Comment (mhk119) [reply Mathlib/Data/Num/Lemmas.lean:955]: Right when I tried to write ```m <<< n``` it says ```failed to synthesize instance
  HShiftLeft Num ℕ ?m.622291```

File: Mathlib/Data/Nat/Size.lean (hunk 1 above)
Comment (mhk119) [reply Mathlib/Data/Nat/Size.lean:40]: The same lemma with the exact same name exists in ```Std.Data.Nat.Lemmas```.

File: Mathlib/Data/Num/Lemmas.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Num/Lemmas.lean:955]:
```suggestion
theorem shiftl_to_nat (m n) : (shiftl m n : ℕ) = (m : ℕ) <<< (n : ℕ) := by
```

File: Mathlib/Data/Nat/Size.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Size.lean:40]: Can you leave behind the `#align`?

File: Mathlib/Data/Num/Lemmas.lean [hunk 6]
```diff
@@ -952,73 +952,68 @@ theorem lxor'_to_nat : ∀ m n, (lxor m n : ℕ) = Nat.lxor' m n := by
...
-  simp [PosNum.shiftl_succ_eq_bit0_shiftl, Nat.shiftl_succ, IH]
+  simp [PosNum.shiftl_succ_eq_bit0_shiftl, Nat.shiftLeft_succ, IH,
+        Nat.bit0_val, pow_succ, ← mul_assoc, mul_comm]
 #align num.shiftl_to_nat Num.shiftl_to_nat
 
 @[simp, norm_cast]
-theorem shiftr_to_nat (m n) : (shiftr m n : ℕ) = Nat.shiftr m n := by
-  cases' m with m <;> dsimp only [shiftr]
+
+theorem shiftr_to_nat (m n) : (shiftr m n : ℕ) = Nat.shiftRight m n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Num/Lemmas.lean:968]: `>>>` here in the same way as above, I assume

File: Mathlib/Data/Nat/Size.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Size.lean:40]: It looks like you've swapped the order of the lemmas here; can you put them back in the same order to minimize the diff?

File: Mathlib/Data/Nat/Size.lean [hunk 7]
```diff
@@ -120,25 +107,25 @@ theorem size_shiftl' {b m n} (h : shiftl' b m n ≠ 0) : size (shiftl' b m n) =
 #align nat.size_shiftl' Nat.size_shiftl'
 
 @[simp]
-theorem size_shiftl {m} (h : m ≠ 0) (n) : size (shiftl m n) = size m + n :=
-  size_shiftl' (shiftl'_ne_zero_left _ h _)
-#align nat.size_shiftl Nat.size_shiftl
+theorem size_shiftLeft {m} (h : m ≠ 0) (n) : size (m <<< n) = size m + n :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Nat/Size.lean:110]: @digama0, what are your thoughts on this?

**Review by eric-wieser — APPROVED** [review]
bors d=@digama0

This looks good to me, though it's probably good for an Std4 contributor to have a quick skim.

Regarding the simp-nf issue, I'd recommend making a PR to Std4 to remove the lemma, and then discussing further there.
